US07795262B2
Step 2. Preparation of 1-(6-chloropyridazin-3-yl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine hydrochloride
To a solution of tert-butyl 1-(6-chloropyridazin-3-yl)-1,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate (2.14 g, 6.4 mmol) in dioxane (20 ml) is added 4N HCl in dioxane (20 mL, 80 mmol), and the mixture is stirred at rt overnight. The solvent is removed and the residue is washed with ether to give the title compound as a white solid. MS (M+1): 236.1.

reactant | tert-butyl 1-(6-chloropyridazin-3-yl)-1,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate | 6.4 mmol, 2.14 g | ClC1=CC=C(N=N1)N1N=CC=2CN(CCC21)C(=O)OC(C)(C)C | C15H18ClN5O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 mmol, 20 mL | O1CCOCC1 | C4H8O2
product | 1-(6-chloropyridazin-3-yl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine hydrochloride | Cl.ClC1=CC=C(N=N1)N1N=CC=2CNCCC21 | InChI=1S/C10H10ClN5.ClH/c11-9-1-2-10(15-14-9)16-8-3-4-12-5-7(8)6-13-16;/h1-2,6,12H,3-5H2;1H
